US07544690B2
To a solution of trans-4-[(4-bromo-2-trifluoromethoxy-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid amide (4.2 g, 9.2 mmol) in THF (40 mL) was added a solution of 1 M BH3 in THF (32 mL, 32 mmol) over 40 min. The mixture was refluxed for 2 hr. After cooling to 0° C., the mixture was quenched with water (7 mL). To the resulting mixture were added 4 M HCl in EtOAc (28 mL) and MeOH (28 mL) and the mixture was concentrated. To the residue was added MeOH (28 mL) and the mixture was once again concentrated. The resulting HCl-salt was recrystallized from Et2O and subsequently neutralized with 1 M aqueous sodium hydroxide. The aqueous layer was extracted with CH2Cl2 (twice), the organic layers combined, dried over sodium sulfate, and concentrated under reduced pressure to give trans-N-(4-aminomethyl-cyclohexylmethyl)-4-bromo-2-trifluoromethoxy-benzenesulfonamide as a white solid (3.0 g, 74%).

reactant | trans-4-[(4-bromo-2-trifluoromethoxy-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid amide | 9.2 mmol, 4.2 g | BrC1=CC(=C(C=C1)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)N)OC(F)(F)F | C15H18BrF3N2O4S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 32 mmol, 32 mL | C1CCOC1 | C4H8O
product | trans-N-(4-aminomethyl-cyclohexylmethyl)-4-bromo-2-trifluoromethoxy-benzenesulfonamide | 3.0 g, 74% | NC[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=C(C=C(C=C1)Br)OC(F)(F)F | C15H20BrF3N2O3S
